US07585869B2
(4-{4-[6,7-Bis-(2-methoxy-ethoxy)-quinazolin-4-ylamino]-2-methyl-phenoxy}-piperidin-1-yl)-(tetrahydro-furan-2-yl)-methanone:
To a solution of 1,1′-carbonyldiimidizole (35 mg, 0.221 mmol) in N,N-dimethylformamide (2 mL) was added (R)-(+)-tetrahydrofuroic acid (25 mg, 0.221 mmol). The reaction was stirred at room temperature for 30 minutes then [6,7-Bis-(2-methoxy-ethoxy)-quinazolin-4-yl]-[3-methyl-4-(piperidin-4-yloxy)-phenyl]-amine hydrochloride (100 mg, 0.193 mmol) was added. The reaction was then stirred at room temperature overnight. The following day, the reaction was filtered through a 0.45 μm PTFE membrane filter and purified by preparatory HPLC. 1H NMR (300 MHz, DMSO-d6) δ 9.38(bs, 1H), 8.39(s, 1H), 8.15(s, 1H), 7.85(s, 1H), 7.52(d, J=8.39 Hz, 1H), 7.19(s, 1H), 7.04(d, J=8.71 Hz, 1H), 4.70(t, J=7.46, 1.55 Hz, 1H), 4.64(t, J=18.66, 3.42 Hz, 1H), 4.84(t, J=4.97, 3.75 Hz, 2H), 3.77(m, 8H), 3.43(m, 2H), 3.38(s, 3H), 3.36(s, 3H), 2.21(s, 3H), 2.05(m, 4H), 1.90(m, 2H), 1.66(m, 2H), LRMS (M+): 581.1, (M−): 579.2.

reactant | (R)-(+)-tetrahydrofuroic acid | 0.221 mmol, 25 mg | O1[C@H](CCC1)C(=O)O | C5H8O3
reactant | [6,7-Bis-(2-methoxy-ethoxy)-quinazolin-4-yl]-[3-methyl-4-(piperidin-4-yloxy)-phenyl]-amine hydrochloride | 0.193 mmol, 100 mg | Cl.COCCOC=1C=C2C(=NC=NC2=CC1OCCOC)NC1=CC(=C(C=C1)OC1CCNCC1)C
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | (4-{4-[6,7-Bis-(2-methoxy-ethoxy)-quinazolin-4-ylamino]-2-methyl-phenoxy}-piperidin-1-yl)-(tetrahydro-furan-2-yl)-methanone | COCCOC=1C=C2C(=NC=NC2=CC1OCCOC)NC1=CC(=C(OC2CCN(CC2)C(=O)C2OCCC2)C=C1)C | C31H40N4O7
